### PR TITLE
[Merged by Bors] - chore: refactor perfect rings / fields

### PR DESCRIPTION
**Pull request by ocfnash**
The main changes are:

- we replace the data-bearing `PerfectRing` typeclass with a `Prop`-valued (non-constructive) version,
- we introduce a new typeclass `PerfectField`,
- we add a proof that a perfect field of positive characteristic has surjective Frobenius map,
- we add some basic facts such as perfection of finite rings / fields and products of perfect rings.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Perfect.lean [hunk 1]
```diff
@@ -0,0 +1,104 @@
...
+
+-/
+
+open Function
+
+/-- A perfect ring of characteristic `p` (prime) in the sense of Serre.
+
+NB: This is not related to the concept with the same name introduced by Bass (related to projective
+covers of modules). -/
+class PerfectRing (R : Type _) (p : ℕ) [CommRing R] [Fact p.Prime] [CharP R p] : Prop where
```
Comment (eric-wieser) [inline Mathlib/FieldTheory/Perfect.lean:29]: Doesn't this clash with the existing `PerfectRing`?

Comment (ocfnash) [reply Mathlib/FieldTheory/Perfect.lean:29]: Yes, once I'm happy with this file, I'll be nuking the existing `PerfectRing`.

File: Mathlib/FieldTheory/Perfect.lean [hunk 2]
```diff
@@ -0,0 +1,104 @@
...
+#align frobenius_equiv frobeniusEquiv
+
+@[simp]
+theorem coe_frobeniusEquiv : ⇑(frobeniusEquiv R p) = frobenius R p := rfl
+#align coe_frobenius_equiv coe_frobeniusEquiv
+
+@[simp]
+theorem frobenius_comp_frobeniusEquiv_symm :
+    (frobenius R p).comp (frobeniusEquiv R p).symm = RingHom.id R := by
+  ext; simp [surjInv_eq]
```
Comment (acmepjz) [inline Mathlib/FieldTheory/Perfect.lean:58]: I think in mathlib we should only use `simp only` but not `simp`?
```suggestion
  ext; simp only [RingHom.coe_comp, RingHom.coe_coe, comp_apply, frobeniusEquiv_symm_apply,
    surjInv_eq, RingHom.id_apply]
```

File: Mathlib/FieldTheory/Perfect.lean [hunk 3]
```diff
@@ -0,0 +1,104 @@
...
+See also `PerfectRing` for a generalisation in positive characteristic. -/
+class PerfectField (K : Type _) [Field K] : Prop where
+  separable_of_irreducible : ∀ {f : Polynomial K}, Irreducible f → f.Separable
+
+lemma PerfectRing.toPerfectField (K : Type _) (p : ℕ)
+    [Field K] [hp : Fact p.Prime] [CharP K p] [PerfectRing K p] : PerfectField K := by
+  refine' PerfectField.mk $ fun {f} hf ↦ _
+  rcases Polynomial.separable_or p hf with h | ⟨-, g, -, rfl⟩
+  · assumption
+  · exfalso; revert hf; simp
```
Comment (acmepjz) [inline Mathlib/FieldTheory/Perfect.lean:84]: Same as above, use `simp only` instead of `simp`
```suggestion
  · exfalso; revert hf; simp only [not_irreducible_expand, IsEmpty.forall_iff]
```

File: Mathlib/FieldTheory/Perfect.lean [hunk 4]
```diff
@@ -0,0 +1,104 @@
...
+instance ofCharZero [CharZero K] : PerfectField K := ⟨Irreducible.separable⟩
+
+instance ofFinite [Finite K] : PerfectField K := by
+  obtain ⟨p, _instP⟩ := CharP.exists K
+  have : Fact p.Prime := ⟨CharP.char_is_prime K p⟩
+  exact PerfectRing.toPerfectField K p
+
+variable [PerfectField K]
+
+instance PerfectField.toPerfectRing (p : ℕ) [Fact p.Prime] [CharP K p] : PerfectRing K p := by
```
Comment (acmepjz) [inline Mathlib/FieldTheory/Perfect.lean:99]: I have a half-baked attempt using `Mathlib.FieldTheory.SplittingField.Construction` with a lot of `sorry`s:
```lean
instance PerfectField.toPerfectRing (p : ℕ) [HP : Fact p.Prime] [CharP K p] : PerfectRing K p := by
  refine' mkOfReduced _ _ $ fun y ↦ _
  simp only [frobenius, RingHom.coe_mk, MonoidHom.coe_mk, OneHom.coe_mk]
  let f : Polynomial K := Polynomial.X ^ p - Polynomial.C y
  have hfdeg : f.degree = p :=
    Polynomial.degree_X_pow_sub_C (Nat.pos_of_ne_zero <| NeZero.ne p) y
  have hfdeg' : f.degree ≠ 0 := by rw [hfdeg]; norm_cast; exact NeZero.ne p
  have hfnotunit : ¬ IsUnit f := fun h => hfdeg' <| Polynomial.degree_eq_zero_of_isUnit h
  have hf' : Polynomial.derivative f = 0 := by
    rw [map_sub, Polynomial.derivative_X_pow, CharP.cast_eq_zero, map_zero, zero_mul,
      Polynomial.derivative_C, sub_self]
  have hfnotirr : ¬ Irreducible f := fun h => by
    replace h := separable_of_irreducible h
    rw [Polynomial.Separable, hf', isCoprime_zero_right] at h
    exact hfnotunit h
  let g := f.factor
  let d := g.natDegree
  have hd0 : 0 < d := by
    sorry
  have hdp : d < p := by
    sorry
  have hdinv : IsUnit (d : K) := by
    sorry
  have : Fact (Irreducible g) := f.fact_irreducible_factor
  have hdiv : g ∣ f := Polynomial.factor_dvd_of_not_isUnit hfnotunit
  have hroot := hdiv
  rw [← AdjoinRoot.mk_eq_zero, map_sub, map_pow, AdjoinRoot.mk_X, AdjoinRoot.mk_C,
    sub_eq_zero] at hroot
  have : CharP (AdjoinRoot g) p := by
    sorry
  have hf1 : f.map (AdjoinRoot.of g)
      = ((Polynomial.X (R := AdjoinRoot g)) - Polynomial.C (AdjoinRoot.root g)) ^ p := by
    rw [Polynomial.map_sub, Polynomial.map_pow, Polynomial.map_X,
      Polynomial.map_C, ← hroot, map_pow, sub_pow_char]
  have hg1 : g.map (AdjoinRoot.of g)
      = ((Polynomial.X (R := AdjoinRoot g)) - Polynomial.C (AdjoinRoot.root g)) ^ d := by
    sorry
  have hcoeff : (g.map (AdjoinRoot.of g)).coeff (d - 1) = -d * AdjoinRoot.root g := by
    sorry
  rw [Polynomial.coeff_map] at hcoeff
  use -(d : K)⁻¹ * g.coeff (d - 1)
  sorry
```

File: Mathlib/FieldTheory/Perfect.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/FieldTheory/Perfect.lean:58]: It's OK to use `simp` to finish a proof (we call this a "terminal simp"). So I would only change this to `simp only` if it was slow but it's actually very fast so I'll leave it.

File: Mathlib/FieldTheory/Perfect.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/FieldTheory/Perfect.lean:84]: As above.

**Comment by acmepjz** [comment]
Would you like to add the equivalent definition that a field is perfect if and only if every (finite) algebraic extension is surjective?

**Comment by ocfnash** [comment]
> Would you like to add the equivalent definition that a field is perfect if and only if every (finite) algebraic extension is surjective?

I don't plan to do this, but I encourage you to do it in a follow-up PR if you're interested!

**Comment by eric-wieser** [comment]
> * we replace the data-bearing `PerfectRing` typeclass with a `Prop`-valued (non-constructive) version,

What do we gain by removing the data here? Is the problem that the class would not be subsingleton?

**Comment by eric-wieser** [comment]
1. I'd claim this isn't really true; the actual statement then becomes that the `classical.some` to get nthRoot is unique (which of course is also true), but is more work to state not less!
2. Yes, this is really the same question, which I realize is controversial and subjective
3. That can be resolved with an `ofBijective` constructor: we have the same thing for `IsInternal` and `Decomposition` on direct sums, though maybe there is a stronger answer for 2) there (computably decompositions are common, I don't know about pthRoots).
4. This was the answer I was looking for, but I was hoping we had evidence that the problem was more than speculative!

**Comment by ocfnash** [comment]
Thanks for these thoughtful responses.

With regard to 4, to make it a bit less speculative, I just added an instance proving that the product `R × S` of two perfect rings is perfect. I claim this is exactly the sort of instance that would be problematic with a data-bearing instance as there might be a diamond of solutions (e.g., if `R` and `S` are both finite).

**Review by kbuzzard — APPROVED** [review]
I raised some questions. I think this is the right way to do it. No constructivists are interested in perfect fields, and this will make the lives of the perfectoid people easier. I don't think there was any real justification in having this definition constructive, I think it was just a historical coincidence because the author of the original file was going through a constructivist phase at the time.

`PerfectField.toPerfectRing` : nice!

File: Mathlib/FieldTheory/Perfect.lean [hunk 5]
```diff
@@ -0,0 +1,181 @@
...
+/-- A perfect field.
+
+See also `PerfectRing` for a generalisation in positive characteristic. -/
+class PerfectField (K : Type _) [Field K] : Prop where
+  /-- A field is perfect if every irreducible polynomial is separable. -/
+  separable_of_irreducible : ∀ {f : K[X]}, Irreducible f → f.Separable
+
+lemma PerfectRing.toPerfectField (K : Type _) (p : ℕ)
+    [Field K] [hp : Fact p.Prime] [CharP K p] [PerfectRing K p] : PerfectField K := by
+  refine' PerfectField.mk $ fun hf ↦ _
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/FieldTheory/Perfect.lean:132]: The style here is allowed.

**Review by jcommelin — APPROVED** [review]
bors d+

File: Mathlib/FieldTheory/PerfectClosure.lean [hunk 6]
```diff
@@ -3,128 +3,18 @@ Copyright (c) 2018 Kenny Lau. All rights reserved.
...
-  frobenius_pthRoot x
-#align pth_root_pow_p pthRoot_pow_p
-
-@[simp]
-theorem pthRoot_frobenius (x : R) : pthRoot R p (frobenius R p x) = x :=
-  (frobeniusEquiv R p).symm_apply_apply x
-#align pth_root_frobenius pthRoot_frobenius
-
--- Porting note: @[simp] can prove this
-theorem pthRoot_pow_p' (x : R) : pthRoot R p (x ^ p) = x :=
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/FieldTheory/PerfectClosure.lean:78]: I think we have we should. In particular, this one is known to `simp` from the rest of what's there:
```lean
example {x : R} : (frobeniusEquiv R p).symm (x ^ p) = x :=
  by simp? says simp only [map_pow, frobeniusEquiv_symm_pow_p]
```

**Comment by ocfnash** [comment]
bors merge
